US06455550B1
Synthesis of 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-L-phenylalanine Methyl Ester Hydrochloride Salt
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester (1.86 g, 4.0 mmol) was treated with 4 N hydrochloric acid in dioxane (10 mL) at room temperature. After 5 minutes, the solids went into solution and the mixture was stirred for 1 h. Then, 25 mL of ethyl ether was added to precipitate the product. The solids were collected by filtration and washed with hexane. The resulting solid was very hydroscopic and became gummy. This material was dissolved in 50 mL of methanol and concentrated. After drying under high vacuum, 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester hydrochloride salt. (1.64 g, 97%) was obtained as a light yellow solid: mp 158-161° C.

reactant | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester | 4.0 mmol, 1.86 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C22H24Cl2N2O5
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | ethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-L-phenylalanine Methyl Ester Hydrochloride Salt | Cl.COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | InChI=1S/C17H16Cl2N2O3.ClH/c1-24-17(23)14(20)9-10-5-7-11(8-6-10)21-16(22)15-12(18)3-2-4-13(15)19;/h2-8,14H,9,20H2,1H3,(H,21,22);1H/t14-;/m0./s1
